US04111940
(d) 1-Ethyl-5,6-dihydro-4-hydroxybenzo[5,6]cyclohepta[1,2-b]-pyrazolo[4,3-e]pyridin-11(1H)-one
41 g. of 1-ethyl-5,6-dihydro-4-hydroxybenzo[5,6-cyclophepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one (0.14 mol.) and 350 ml. of phosphorus oxychloride are refluxed for 4.5 hours. After cooling, the solution is filtered, the excess phosphorus oxychloride is removed in vacuo and the residue treated with water and extracted with chloroform. The chloroform extract is washed with water, dried with Na2SO4, treated with charcoal and then evaporated in vacuo to give 38 g. (87%) of 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one; m.p. 156°-159° (ethanol; refrigerator).

reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chloro-1-ethyl-5,6-dihydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11(1H)-one | ClC1=C2C(=NC3=C1C=NN3CC)C(C3=C(CC2)C=CC=C3)=O | C17H14ClN3O
solvent | ethanol | C(C)O | C2H6O
product | 1-Ethyl-5,6-dihydro-4-hydroxybenzo[5,6]cyclohepta[1,2-b]-pyrazolo[4,3-e]pyridin-11(1H)-one | C(C)N1N=CC=2C(=C3C(=NC21)C(C2=C(CC3)C=CC=C2)=O)O | C17H15N3O2
